US06251911B1
20.3 g (147 mmol) of triethylamine hydrochloride and 21.0 g (322 mmol) of sodium azide are added to a solution of 14.0 g (107 mmol) of 2-cyano-benzaldehyde in 350 ml of 1-methyl-2-pyrrolidone and heated at 110° C. for 3 hours (argon atmosphere). The black reaction solution is poured into 0.6 liter of ice/37% HCl (20:1) and stirred thoroughly to complete the reaction. Extraction with 3 portions of ethyl acetate, washing the organic phases with 3× water and brine, drying (Na2SO4), concentration by evaporation and stirring in diethyl ether yield 2-(tetrazol-5-yl)-benzaldehyde; m.p. 130° C.; TLC: Rf=0.10 (CHCl3/methano/H2O/acetic acid=85:13:1.5:0.5).

reactant | triethylamine hydrochloride | 147 mmol, 20.3 g | Cl.C(C)N(CC)CC
reactant | sodium azide | 322 mmol, 21.0 g | [N-]=[N+]=[N-].[Na+]
reactant | 2-cyano-benzaldehyde | 107 mmol, 14.0 g | C(#N)C1=C(C=O)C=CC=C1 | C8H5NO
solvent | 1-methyl-2-pyrrolidone | 350 ml | CN1C(CCC1)=O | C5H9NO
product | 2-(tetrazol-5-yl)-benzaldehyde | N1N=NN=C1C1=C(C=O)C=CC=C1 | C8H6N4O
